datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[N:1][O:2][H:5])([H:3])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0](=[N:1][O:2])([H:3])[H:4].[H:5][C:6]([H:7])([H:8])[H:9],73.8476
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8][C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8](=[C:7]([H:10])[H:11])[C:9]([H:12])([H:13])[H:14],5.4392
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:21]([C:20]([H:23])([H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26])[H:13])[H:12])([H:10])[H:11],15.3553
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:17])[H:18])[H:16])[C:6]([C:7](=[C:8]([C:9]([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])[H:22])[H:21])([H:19])[H:20])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([C:4](=[C:5]([H:17])[H:18])[H:16])[C:6]([H:19])([H:20])[C:7]([H:21])=[C:8]([H:22])[C:9]1([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])[H:14])([H:12])[H:13],92.048
[C:3](=[S:4])[H:5].[S:0]([H:1])[H:2]>>[H:1][C:3](=[S:4])[H:5].[S:0][H:2],4.184
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](#[C:13][C:14]([C:15]([H:18])([H:19])[H:20])[C:16]([H:21])([H:22])[H:23])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:14]([C:13]#[C:12][H:17])([C:15]([H:18])([H:19])[H:20])[C:16]([H:21])([H:22])[H:23])[H:6],24.9366
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:9])([H:7])[H:8],36.0661
[N:0]([O:1][H:3])[H:2].[O:4]>>[H:3][O:4].[N:0](=[O:1])[H:2],-1.50624
[C:0]([C:1]1([H:10])[C:2]([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:7])([H:8])[H:9]>>[C:0]([H:7])([H:8])[H:9].[c:1]1([H:10])[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]1[H:15],95.3952
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0](=[C:1]([C:2]([H:4])([H:5])[H:6])[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17])[H:3],10.7947
[C:0](=[O:1])[H:2].[H:3][H:4]>>[C:0](=[O:1])([H:2])[H:4].[H:3],204.765
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])=[C:2]([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])[C:5]1([C:6](=[C:7]([H:17])[H:18])[H:16])[H:15],103.931
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:8])([H:6])[H:7],71.9648
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13])[H:11])[H:10])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]1([C:6]([H:15])([H:16])[H:17])[H:14])[H:9])([H:7])[H:8],139.662
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](=[C:11]([H:13])[H:14])[H:12]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:10](=[C:11]([H:13])[H:14])[H:12])[H:6],5.94128
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:6],58.7434
[C:0]([H:1])([H:2])[H:3].[N:4]([N:5]([H:7])[H:8])[H:6]>>[C:0]([H:1])([H:2])([H:3])[H:7].[N:4](=[N:5][H:8])[H:6],7.61488
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[H:30])[H:29])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[C:25]([C:24](=[C:23]([H:27])[H:28])[H:29])([C:26]([H:31])([H:32])[H:33])[H:30])[H:13])([H:11])[H:12],53.6389
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8]([C:9](=[S:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:14])[H:4].[C:7]([C:8]([C:9](=[S:10])[H:16])[H:15])([H:11])([H:12])[H:13],9.2048
